US05367077
A solution of 5-amino-2-methoxy pyridine (1.0 g, 8.0 mmol) in 37% hydrochloric acid (7 mL) was cooled in an ice-salt bath and a solution of sodium nitrite (611 mg, 8.8 mmol) in water (2 mL) was added dropwise. The reaction mixture was stirred for 15 minutes then slowly added to an ice-cold solution of tin(II)chloride dihydrate (5.5 g, 24 mmol) in 37% hydrochloric acid (7 mL). After 3 hours at 0° C. the solids were collected by filtration and dissolved in 5% sodium hydroxide solution. The acidic, aqueous filtrate was carefully neutralized with 12M sodium hydroxide, then more base was added to raise the pH to about 12. The alkaline solutions were combined and extracted several times with ether. The extract was dried over sodium sulfate, filtered and concentrated to afford 5-hydrazino-2-methoxypyridine, and was used without further purification.

reactant | 5-amino-2-methoxy pyridine | 8.0 mmol, 1.0 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | sodium nitrite | 8.8 mmol, 611 mg | N(=O)[O-].[Na+]
reactant | tin(II)chloride dihydrate | 24 mmol, 5.5 g | O.O.[Sn](Cl)Cl
solvent | hydrochloric acid | 7 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | hydrochloric acid | 7 mL | Cl | ClH
product | 5-hydrazino-2-methoxypyridine | N(N)C=1C=CC(=NC1)OC | C6H9N3O
